US03983239
In the same manner as described in Example 7, 2-(β-hydroxyethyl)-5,8-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido-[4,3-b]indole (3.5 g) is reacted with thionyl chloride (5.0 g) to give 2-(β-chloroethyl)-5,8-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (2.9 g) as an oily substance.

reactant | 2-(β-hydroxyethyl)-5,8-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido-[4,3-b]indole | 3.5 g | OCCN1CC2C(N(C=3C=CC(=CC23)C)C)CC1 | C15H22N2O
reactant | thionyl chloride | 5.0 g | S(=O)(Cl)Cl | Cl2OS
product | 2-(β-chloroethyl)-5,8-dimethyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 2.9 g | ClCCN1CC2C(N(C=3C=CC(=CC23)C)C)CC1 | C15H21ClN2
